US07511133B2
Synthesis of N-(1-Adamantyl)-4-(acetylamino)benzenesulfonamide
1-Adamantanamine hydrochloride (0.0114 mol) and triethylamine (0.0114 mol) are added to a solution of 4-acetamidophenylsulfonyl chloride (1.34 g, 0.0057 mol) in dioxane (5 mL). The mixture is heated for 1 hour at 80° C., then part of the solvent is removed by evaporation at reduced pressure, and water is added until precipitation of the resulting sulfonamide. The product is collected by filtration as a pink solid in 30.3% yield and used without further purification.

reactant | 1-Adamantanamine hydrochloride | 0.0114 mol | Cl.C12(CC3CC(CC(C1)C3)C2)N
reactant | triethylamine | 0.0114 mol | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidophenylsulfonyl chloride | 0.0057 mol, 1.34 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-(1-Adamantyl)-4-(acetylamino)benzenesulfonamide | 30.3% yield | C12(CC3CC(CC(C1)C3)C2)NS(=O)(=O)C2=CC=C(C=C2)NC(C)=O | C18H24N2O3S
